US08058441B2
1-Acetyl-6-(2-phenylaminobenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
HATU condensation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (15 mg) with N-phenylanthranilic acid (21 mg) and N,N-diisopropylethylamine (33 μl) in tetrahydrofuran (1 ml) was performed according to the method described in example 11.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 15 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | N-phenylanthranilic acid | 21 mg | C1(=CC=CC=C1)NC=1C(C(=O)O)=CC=CC1 | C13H11NO2
reactant | N,N-diisopropylethylamine | 33 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(2-phenylaminobenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC=C1)NC1=CC=CC=C1)=O)(C)C1=CC=CC=C1)(C)C | C33H33N3O2
